US08097708B2
Synthesis of 2-[4-[1-(2-aminoethylamino)ethyl]phenoxy]-1-(pyrrolidin-1-yl)ethanone
By using 2-(4-acetylphenoxy)-1-(pyrrolidin-1-yl)ethanone (250 mg), ethylenediamine (400 μl) and acetic acid (700 μl) as starting materials, the title compound (163.8 mg) was obtained in the same manner as that of Reference Example 64, (1).

reactant | 2-(4-acetylphenoxy)-1-(pyrrolidin-1-yl)ethanone | 250 mg | C(C)(=O)C1=CC=C(OCC(=O)N2CCCC2)C=C1 | C14H17NO3
reactant | ethylenediamine | 400 μl | C(CN)N | C2H8N2
solvent | acetic acid | 700 μl | C(C)(=O)O | C2H4O2
product | 2-[4-[1-(2-aminoethylamino)ethyl]phenoxy]-1-(pyrrolidin-1-yl)ethanone | 163.8 mg | NCCNC(C)C1=CC=C(OCC(=O)N2CCCC2)C=C1 | C16H25N3O2
